### PR TITLE
[Merged by Bors] - feat(combinatorics): Define vertices of a Quiver.Path

### PR DESCRIPTION
**Pull request by or4nge19**
This PR is linked to #27315 and #27325. It's part of PRing the formalization of core PF theorem here https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Formalizing.20Perron-Frobenius/with/525516636

This adds:

Quiver.Path.vertices: A List V representing the sequence of vertices along a path.

vertices_comp: A proof that the vertices of a composed path p.comp q are p.vertices.dropLast ++ q.vertices. vertices_length: The length of the vertices list is p.length + 1. Lemmas connecting vertices to standard list operations like head?, getLast, and get. Lemmas for membership: start_mem_vertices and end_mem_vertices.

This is a prerequisite for defining path simplicity and formalizing cycle extraction, as used in the formalization of the Perron-Frobenius theorem

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 1]
```diff
@@ -0,0 +1,262 @@
...
+open List
+
+variable {V : Type*} [Quiver V]
+
+/-- The end vertex of a path. A path `p : Path a b` has `p.end = b`. -/
+def «end» {a : V} : ∀ {b : V}, Path a b → V
+  | b, _ => b
+
+@[simp]
+lemma end_cons {a b c : V} (p : Path a b) (e : b ⟶ c) : «end» (p.cons e) = c := rfl
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
lemma end_cons {a b c : V} (p : Path a b) (e : b ⟶ c) : (p.cons e).end = c := rfl
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 2]
```diff
@@ -0,0 +1,262 @@
...
+
+/-- The list of vertices in a path, including the start and end vertices. -/
+def vertices {a : V} : ∀ {b : V}, Path a b → List V
+  | _, nil => [a]
+  | _, cons p e => (p.vertices).concat («end» (p.cons e))
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  | _, cons p e => (p.vertices).concat (p.cons e).end
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 3]
```diff
@@ -0,0 +1,262 @@
...
+
+/-- The set of vertices in a path. -/
+def vertices_set {a b : V} (p : Path a b) : Set V :=
+  {v | v ∈ p.vertices}
+
+/-- The finset of vertices in a path. -/
+def vertices_finset [DecidableEq V] {a b : V} (p : Path a b) : Finset V :=
+  p.vertices.toFinset
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: I'm not convinced we want these definitions since either we'll have to repeat a bunch of API for `List` (and especially `List.toFinset`) in this more restricted situation or else we'll constantly be unfolding them.

If you still feel we want them then I suggest that they should be `abbrev` and also note that by rule 4 of our [naming conventions](https://leanprover-community.github.io/contribute/naming.html#general-conventions) they should be `verticesSet` and `verticesFinset`.

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 4]
```diff
@@ -0,0 +1,262 @@
...
+lemma mem_vertices_finset_iff [DecidableEq V] {a b : V} (p : Path a b) {x : V} :
+    x ∈ p.vertices_finset ↔ x ∈ p.vertices :=
+  List.mem_toFinset
+
+@[simp]
+lemma mem_init_finset_iff [DecidableEq V] {a b : V} (p : Path a b) {x : V} :
+    x ∈ p.init_finset ↔ x ∈ p.vertices.dropLast :=
+  List.mem_toFinset
+
+lemma vertices_nil (a : V) : (nil : Path a a).vertices = [a] := rfl
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean:37]:
```suggestion
@[simp]
lemma vertices_nil (a : V) : (nil : Path a a).vertices = [a] := rfl
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 5]
```diff
@@ -0,0 +1,262 @@
...
+def vertices_set {a b : V} (p : Path a b) : Set V :=
+  {v | v ∈ p.vertices}
+
+/-- The finset of vertices in a path. -/
+def vertices_finset [DecidableEq V] {a b : V} (p : Path a b) : Finset V :=
+  p.vertices.toFinset
+
+/-- The finset of vertices in a path, excluding the final vertex. -/
+def init_finset [DecidableEq V] {a b : V} (p : Path a b) : Finset V :=
+  p.vertices.dropLast.toFinset
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: I'm also a bit dubious about this definition and if we keep it we need a better name.

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 6]
```diff
@@ -0,0 +1,262 @@
...
+
+lemma vertices_nil (a : V) : (nil : Path a a).vertices = [a] := rfl
+
+@[simp]
+lemma vertices_cons {a b c : V} (p : Path a b) (e : b ⟶ c) :
+  (p.cons e).vertices = p.vertices.concat c := rfl
+
+-- Vertices of a path are always non-empty
+lemma vertices_nonempty' {V : Type*} [Quiver V] {a b : V} (p : Path a b) :
+    p.vertices.length > 0 := by
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
lemma length_vertices_pos {a b : V} (p : Path a b) :
    0 < p.vertices.length := by
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 7]
```diff
@@ -0,0 +1,262 @@
...
+      Nat.lt_add_one]
+  | cons p' e ih =>
+    rw [vertices_cons]
+    simp only [List.concat_eq_append, List.length_append, List.length_cons, List.length_nil,
+      zero_add, gt_iff_lt, lt_add_iff_pos_left, add_pos_iff, ih, Nat.lt_one_iff, pos_of_gt, or_self]
+
+/-- The set of vertices in a path. -/
+def vertices_finset' {a b : V} (p : Path a b) : Set V :=
+  {v | v ∈ p.vertices}
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: This seems to be a duplicate of `vertices_set` above
```suggestion
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: Also if we move this lemma below `vertices_length` then the proof can be just `simp`.

**Review by ocfnash — COMMENTED** [review]
Thanks for all this :)

I've left some initial review and will return for the rest as soon as you've had a chance to respond.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean (hunk 3 above)
Comment (or4nge19) [reply Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: I'd like to get rid of them too and have tried indeed during the development of the subsequent API underlying PF but have found it easier to have these different definitions instead of coercions when needed. I'll check tonight if I can do something about it. In the meantime I've made them abbrev

Comment (or4nge19) [reply Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: I can turn them into [simp] lemmas and perhaps it works with less pollution

Comment (or4nge19) [reply Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: @[simp]
lemma mem_verticesSet_iff {a b : V} (p : Path a b) (v : V) :
    v ∈ {v | v ∈ p.vertices} ↔ v ∈ p.vertices := Iff.rfl

@[simp]
lemma mem_verticesFinset_iff [DecidableEq V] {a b : V} (p : Path a b) {x : V} :
    x ∈ p.vertices.toFinset ↔ x ∈ p.vertices :=
  List.mem_toFinset

@[simp]
lemma mem_initFinset_iff [DecidableEq V] {a b : V} (p : Path a b) {x : V} :
    x ∈ p.vertices.dropLast.toFinset ↔ x ∈ p.vertices.dropLast :=
  List.mem_toFinset

Comment (ocfnash) [reply Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: Not having these extra `def`s is a big improvement.

I think that we will be able to avoid even the `simp` lemmas you highlight above, but we can return to this point after working on the rest of the PR if you wish.

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 8]
```diff
@@ -0,0 +1,236 @@
...
+  induction p with
+  | nil => simp only [vertices_nil, List.length_cons, List.length_nil, zero_add, length_nil]
+  | cons p' e ih =>
+    simp only [vertices_cons, length_cons, List.length_concat, ih]
+
+lemma length_vertices_pos {a b : V} (p : Path a b) :
+    0 < p.vertices.length := by simp
+
+lemma vertices_nonempty {a : V} {b : V} (p : Path a b) : p.vertices ≠ [] := by
+  rw [← List.length_pos_iff_ne_nil, vertices_length]; omega
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
lemma vertices_ne_nil {a : V} {b : V} (p : Path a b) : p.vertices ≠ [] := by
  simp [← List.length_pos_iff_ne_nil]
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 9]
```diff
@@ -0,0 +1,236 @@
...
+  | nil => simp only [vertices_nil, List.head?_cons]
+  | cons p' e ih =>
+    simp only [vertices_cons]
+    have : ¬p'.vertices.isEmpty := by
+      simp_all only [List.isEmpty_iff]
+      apply Aesop.BuiltinRules.not_intro
+      intro a_1
+      simp_all only [List.head?_nil, reduceCtorEq]
+    simp
+    simp_all only [List.isEmpty_iff, Option.getD_some]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  | cons p' e ih => simp [ih]
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 10]
```diff
@@ -0,0 +1,236 @@
...
+
+@[simp]
+lemma length_toPath {a b : V} (e : a ⟶ b) : (e.toPath).length = 1 := rfl
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
lemma length_toPath {a b : V} (e : a ⟶ b) : e.toPath.length = 1 := rfl
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 11]
```diff
@@ -0,0 +1,236 @@
...
+
+@[simp]
+lemma vertices_getLast {a b : V} (p : Path a b) (h : p.vertices ≠ []) :
+  p.vertices.getLast h = b := by
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: We can use an autoParam for `h` here so that the user never has to supply it. This will also make the lemma fire in `simp` calls, which should be useful below.
```suggestion
lemma vertices_getLast {a b : V} (p : Path a b) (h : p.vertices ≠ [] := p.vertices_nonempty) :
    p.vertices.getLast h = b := by
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 12]
```diff
@@ -0,0 +1,236 @@
...
+  induction p with
+  | nil => simp only [vertices_nil, List.getLast_singleton]
+  | cons p' e ih =>
+    simp only [vertices_cons]
+    rw [@List.getLast_concat']
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  | cons p' e ih => simp
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 13]
```diff
@@ -0,0 +1,236 @@
...
+  | nil =>
+    simp only [comp_nil, vertices_nil]
+    have h_nonempty : p.vertices.length > 0 := by simp
+    have h_ne_nil : p.vertices ≠ [] := List.ne_nil_of_length_pos h_nonempty
+    rw [← List.dropLast_append_getLast h_ne_nil, vertices_getLast p h_ne_nil]
+    simp_all only [gt_iff_lt, ne_eq, List.cons_ne_self, not_false_eq_true,
+      List.dropLast_append_of_ne_nil, List.dropLast_singleton, List.append_nil]
+  | cons q' e ih =>
+    simp only [comp_cons, vertices_cons, ih, List.concat_eq_append]
+    rw [List.append_assoc]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  | nil => simpa using (List.dropLast_append_getLast p.vertices_nonempty).symm
  | cons q' e ih => simp [ih]
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 14]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma start_mem_vertices {a b : V} (p : Path a b) : a ∈ p.vertices := by
+  induction p with
+  | nil => simp only [vertices_nil, List.mem_cons, List.not_mem_nil, or_false]
+  | cons p' e ih =>
+    simp only [vertices_cons]
+    simp_all only [List.concat_eq_append, List.mem_append, List.mem_cons, List.not_mem_nil,
+      or_false, true_or]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  | nil => simp
  | cons p' e ih => simp [ih]
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 15]
```diff
@@ -0,0 +1,236 @@
...
+
+@[simp] lemma length_eq_zero_iff {a : V} (p : Path a a) :
+    p.length = 0 ↔ p = Path.nil := by
+  cases p
+  · simp only [length_nil]
+  · constructor
+    · intro h; cases h
+    · intro h; cases h
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  cases p <;> tauto
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 16]
```diff
@@ -0,0 +1,236 @@
...
+
+/-- Given vertices lists from a path composition, the prefix path's vertices is a prefix of
+the full path's vertices -/
+lemma isPrefix_dropLast_of_comp_eq {V : Type*}
+    [Quiver V] {a b c : V} {p : Path a b} {p₁ : Path a c} {p₂ : Path c b}
+    (h : p.vertices = p₁.vertices.dropLast ++ p₂.vertices) :
+    p₁.vertices.dropLast.IsPrefix p.vertices := by
+  rw [h]
+  exact List.prefix_append p₁.vertices.dropLast p₂.vertices
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: I think this is too specialised / too thin a wrapper around `List.prefix_append` to be worth having.
```suggestion
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 17]
```diff
@@ -0,0 +1,236 @@
...
+@[simp]
+lemma vertices_head_eq_start {a b : V} (p : Path a b) :
+    p.vertices.head (vertices_nonempty p) = a := by
+  induction p with
+  | nil => simp only [vertices_nil, List.head_cons]
+  | cons p' _ ih =>
+    simp only [vertices_cons, List.concat_eq_append]
+    have : p'.vertices ≠ [] := vertices_nonempty p'
+    simp only [List.head_append_of_ne_nil this]
+    exact ih
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
lemma vertices_head_eq {a b : V} (p : Path a b) (h : p.vertices ≠ [] := p.vertices_nonempty) :
    p.vertices.head h = a := by
  induction p with
  | nil => simp only [vertices_nil, List.head_cons]
  | cons p' _ ih => simp [List.head_append_of_ne_nil (vertices_nonempty p'), ih]
```

**Review by ocfnash — COMMENTED** [review]
I've left a bunch more suggestions (mostly just golfs / nitpicks). I think one more round of nitpicks and this will probably be ready :)

Note that you should remove the "awaiting-author" label when you're ready for review, otherwise your PR won't show up in our review queue (I only found this now because I went looking for it).

**Comment by or4nge19** [comment]
apologies for the delay in addressing these comments :) i have committed all of them, still will cross-check after CI is over. Thanks so much for your help. I'm working now on the next PRs towards PF

**Comment by or4nge19** [comment]
I'm not sure I can/have authorisation to remove the 'awaiting author' label as I see no 'x' button in the label window on the right. If ok in the meantime 'll try to ping you with request review when ready

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean (hunk 3 above)
Comment (or4nge19) [reply Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: indeed we should be able to replace both with List.mem_toFinset

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 18]
```diff
@@ -0,0 +1,198 @@
...
+    v ∈ {v | v ∈ p.vertices} ↔ v ∈ p.vertices := Iff.rfl
+
+lemma mem_verticesFinset_iff [DecidableEq V] {a b : V} (p : Path a b) {x : V} :
+    x ∈ p.vertices.toFinset ↔ x ∈ p.vertices :=
+  List.mem_toFinset
+
+lemma mem_initFinset_iff [DecidableEq V] {a b : V} (p : Path a b) {x : V} :
+    x ∈ p.vertices.dropLast.toFinset ↔ x ∈ p.vertices.dropLast :=
+  List.mem_toFinset
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: Let's drop these:
```suggestion
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 19]
```diff
@@ -0,0 +1,198 @@
...
+@[simp]
+lemma vertices_nil (a : V) : (nil : Path a a).vertices = [a] := rfl
+
+@[simp]
+lemma vertices_cons {a b c : V} (p : Path a b) (e : b ⟶ c) :
+  (p.cons e).vertices = p.vertices.concat c := rfl
+
+lemma mem_verticesSet [DecidableEq V] {a b : V} (p : Path a b) (v : V) :
+    v ∈ p.vertices.toFinset ↔ v ∈ p.vertices := by simp
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: This also can go since it's just a specialisation of `List.mem_toFinset`:
```suggestion
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 20]
```diff
@@ -0,0 +1,198 @@
...
+  exact fun x ↦ Set.mem_setOf
+
+@[simp]
+lemma verticesSet_cons {a b c : V} (p : Path a b) :
+  {v | v ∈ p.vertices ∨ v = c} = {v | v ∈ p.vertices} ∪ {c} := by
+  simp only [Set.union_singleton]
+  ext v
+  simp only [mem_verticesSet_iff, Set.mem_insert_iff]
+  rw [or_comm]; simp
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: This should also go:
```suggestion
```
After all, it's just a result about `Set`s really and is even provable via `aesop`. E.g.,
```lean
example {α : Type*} (s : Set α) (a : α) : {x | x ∈ s ∨ x = a} = s ∪ {a} := by aesop
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 21]
```diff
@@ -0,0 +1,198 @@
...
+/-- The head of the vertices list is the start vertex -/
+@[simp]
+lemma vertices_head? {a b : V} (p : Path a b) : p.vertices.head? = some a := by
+  induction p with
+  | nil => simp only [vertices_nil, List.head?_cons]
+  | cons p' e ih => simp [ih]
+
+@[simp]
+lemma length_toPath {a b : V} (e : a ⟶ b) : e.toPath.length = 1 := rfl
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: Please move this to the file `Combinatorics.Quiver.Path`, somewhere just below the definition of [Quiver.Path.length](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/Quiver/Path.html#Quiver.Path.length)

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 22]
```diff
@@ -0,0 +1,198 @@
...
+@[simp]
+lemma vertices_head_eq {a b : V} (p : Path a b) (h : p.vertices ≠ [] := p.vertices_ne_nil) :
+    p.vertices.head h = a := by
+  induction p with
+  | nil => simp only [vertices_nil, List.head_cons]
+  | cons p' _ ih => simp [List.head_append_of_ne_nil (vertices_ne_nil p'), ih]
+
+/-- The last element of the vertices list is the end vertex. -/
+lemma vertices_getLast_eq_end {a b : V} (p : Path a b) :
+  p.vertices.getLast (vertices_ne_nil p) = b := by
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: Let's drop the `_end` since we directly reference `b` and also add an autoParam for the not-nil condition to make this lemma slightly more useful when rewriting:
```suggestion
lemma vertices_getLast_eq {a b : V} (p : Path a b) (h : p.vertices ≠ [] := p.vertices_ne_nil) :
  p.vertices.getLast h = b := by
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 23]
```diff
@@ -0,0 +1,198 @@
...
+
+lemma end_prefix_eq_get_vertices {a b c : V} (p₁ : Path a c) (p₂ : Path c b) :
+    c = (p₁.comp p₂).vertices.get
+        ⟨p₁.length, by
+  simp only [vertices_comp, List.length_append, List.length_dropLast,
+    vertices_length, add_tsub_cancel_right, lt_add_iff_pos_right, add_pos_iff,
+    Nat.lt_one_iff, pos_of_gt, or_true]⟩ := by
+  simp only [List.get_eq_getElem, vertices_comp, List.length_dropLast, vertices_length,
+    add_tsub_cancel_right, le_refl, List.getElem_append_right, tsub_self, List.getElem_zero,
+    vertices_head_eq]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: How about we flip the sides? We can also golf the proofs a bit and make this provable by `simp` if we first introduce the following lemma just below `vertices_head?` higher up:
```lean
@[simp]
lemma getElem_vertices_zero {a b : V} (p : Path a b) : p.vertices[0] = a := by
  induction p with
  | nil => simp
  | cons p' e ih => simp [ih]
```
so that this lemma can become
```suggestion
lemma vertices_comp_get_length_eq {a b c : V} (p₁ : Path a c) (p₂ : Path c b)
    (h : p₁.length < (p₁.comp p₂).vertices.length := by simp) :
    (p₁.comp p₂).vertices.get ⟨p₁.length, h⟩ = c := by
  simp
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 24]
```diff
@@ -0,0 +1,198 @@
...
+
+@[simp]
+lemma vertices_toPath {i j : V} (e : i ⟶ j) :
+    (e.toPath).vertices = [i, j] := by
+  change (Path.nil.cons e).vertices = [i, j]
+  simp [vertices_cons, vertices_nil];
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  simp [Hom.toPath]
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 25]
```diff
@@ -0,0 +1,198 @@
...
+
+lemma vertices_toPath_tail {i j : V} (e : i ⟶ j) :
+    (e.toPath).vertices.tail = [j] := by
+  simp [vertices_toPath]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
  simp
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 26]
```diff
@@ -0,0 +1,198 @@
...
+
+/-- If a composition is `nil`, the left component must be `nil`
+    (proved via lengths, avoiding dependent pattern-matching). -/
+lemma nil_of_comp_eq_nil_left {a b : V} {p : Path a b} {q : Path b a}
+    (h : p.comp q = (Path.nil : Path a a)) : p.length = 0 := by
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
    (h : p.comp q = Path.nil) : p.length = 0 := by
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 27]
```diff
@@ -0,0 +1,198 @@
...
+  have hlen : (p.comp q).length = 0 := by
+    simpa using congrArg Path.length h
+  have : p.length + q.length = 0 := by
+    simpa [length_comp] using hlen
+  exact Nat.eq_zero_of_add_eq_zero_right this
+
+/-- If a composition is `nil`, the right component must be `nil` -/
+lemma nil_of_comp_eq_nil_right {a b : V} {p : Path a b} {q : Path b a}
+    (h : p.comp q = (Path.nil : Path a a)) : q.length = 0 := by
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]:
```suggestion
    (h : p.comp q = Path.nil) : q.length = 0 := by
```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 28]
```diff
@@ -0,0 +1,198 @@
...
+  have hlen : (p.comp q).length = 0 := by
+    simpa using congrArg Path.length h
+  have : p.length + q.length = 0 := by
+    simpa [length_comp] using hlen
+  exact Nat.eq_zero_of_add_eq_zero_left this
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean:151]: We might as well also include:
```suggestion

lemma comp_eq_nil_iff {a b : V} {p : Path a b} {q : Path b a} :
    p.comp q = Path.nil ↔ p.length = 0 ∧ q.length = 0 := by
  refine ⟨fun h ↦ ⟨nil_of_comp_eq_nil_left h, nil_of_comp_eq_nil_right h⟩, fun ⟨hp, hq⟩ ↦ ?_⟩
  induction p with
  | nil => simpa using (length_eq_zero_iff q).mp hq
  | cons p' _ ihp => simp at hp

```

File: Mathlib/Combinatorics/Quiver/Path/Vertices.lean [hunk 29]
```diff
@@ -0,0 +1,198 @@
...
+  induction p with
+  | nil =>
+      simpa [vertices_nil, verticesSet_nil] using hx
+  | cons p' e ih =>
+      rcases (mem_vertices_cons (p := p') (e := e) (x := x)).1 hx with h | rfl
+      · have : x ∈ {v | v ∈ p'.vertices} := ih h
+        simp_all only [imp_self, vertices_cons, concat_eq_append, mem_append, mem_cons, not_mem_nil,
+          or_false, true_or, Set.mem_setOf_eq]
+      · simp
+
```
Comment (ocfnash) [inline Mathlib/Combinatorics/Quiver/Path/Vertices.lean]: Similarly to elsewhere, I don't think we want this:
```suggestion
```
Note also that the entire proof can be proved `by aesop`

**Review by ocfnash — APPROVED** [review]
Thanks for sticking with this.

I've left one final round of suggestions. Please apply these, and then feel free to merge!

bors d+

**Comment by ocfnash** [comment]
> I'm not sure I can/have authorisation to remove the 'awaiting author' label as I see no 'x' button in the label window on the right. If ok in the meantime 'll try to ping you with request review when ready

It's certainly fine (and in fact quite useful) to ping me for review but are you sure you cannot remove the label? It should look like this:

https://github.com/user-attachments/assets/09f53f2d-6aab-4581-a938-dfd98e5af457

**Comment by or4nge19** [comment]
> > I'm not sure I can/have authorisation to remove the 'awaiting author' label as I see no 'x' button in the label window on the right. If ok in the meantime 'll try to ping you with request review when ready
> 
> It's certainly fine (and in fact quite useful) to ping me for review but are you sure you cannot remove the label? It should look like this:
> 
>  GH-labels.mov

I don't have the settings icon in those windows, it may be something unlocked for maintainers or reviewers :)

**Comment by or4nge19** [comment]
> Thanks for sticking with this.
> 
> I've left one final round of suggestions. Please apply these, and then feel free to merge!
> 
> bors d+

thank you for your time :)

**Comment by or4nge19** [comment]
> `bors r+`

bors r+
